US09278950B2
Step 7. Benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinoline-2-carboxylic acid (153.2 mg, 0.4182 mmol), benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate (151.1 mg, 0.4629 mmol) and HATU (485.8 mg, 1.278 mmol), DMF (4.0 mL) was added, followed by DIPEA (570.1 mg, 4.411 mmol). The reaction mixture was stirred at room temperature for 15 h, then concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-10% MeOH in DCM) to give the sub-title compound (242.7 mg, 86%). LCMS calc. for C38H36FN6O5(M+H)+: m/z=675.3. found 675.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinoline-2-carboxylic acid | 0.4182 mmol, 153.2 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=C(C=C2C1)F)C=C)C(=O)O | C20H15FN2O4
reactant | benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 0.4629 mmol, 151.1 mg | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C18H22N4O2
reactant | HATU | 1.278 mmol, 485.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.411 mmol, 570.1 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | Benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-6-fluoro-7-vinylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate | 242.7 mg, 86% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=C(C=C2C1)F)C=C)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C38H35FN6O5
